US05552379
Preparation of 5-tert-butyl-1-indanacetaldehyde
Prepared in an analogous manner to that described in Example 4, via oxidation of 2-(5-tert-butyl-1-indanyl)-1-ethanol (3.85 g, 17.6 mmole) in CH2Cl2 (40 ml), by means of PCC (5.73 g, 25 mmole) in CH2Cl2 (60 ml). After the treatment described and bulb-to-bulb distillation (150°/40 Pa), there was obtained the desired carbaldehyde (2.34 g, yield 62%).

reactant | 2-(5-tert-butyl-1-indanyl)-1-ethanol | 17.6 mmole, 3.85 g | C(C)(C)(C)C=1C=C2CCC(C2=CC1)CCO | C15H22O
reactant | PCC | 25 mmole, 5.73 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 60 ml | C(Cl)Cl | CH2Cl2
product | 5-tert-butyl-1-indanacetaldehyde | yield 62% | C(C)(C)(C)C=1C=C2CCC(C2=CC1)CC=O | C15H20O
